US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-trifluoromethyl-phenyl chloroformate were reacted, followed by treatment with methylamine to give trans-Methyl-[4-(5-methylamino-pentyl)-cyclohexyl]-carbamic acid 4-trifluoromethyl-phenyl ester, MS: 401 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethyl-phenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)C(F)(F)F | C8H4ClF3O2
reactant | methylamine | CN | CH5N
product | trans-Methyl-[4-(5-methylamino-pentyl)-cyclohexyl]-carbamic acid 4-trifluoromethyl-phenyl ester | FC(C1=CC=C(C=C1)OC(N([C@@H]1CC[C@H](CC1)CCCCCNC)C)=O)(F)F | C21H31F3N2O2
